US07157464B2
3,4-Difluoro-aniline (1 g, 7.7 mmol) was dissolved in dry n-butanol (10 mL) and dry sodium carbonate (3.2 g, 30 mmol) was added to it and the reaction mixture stirred for 1 hour under nitrogen. Bis(2-chloroethyl) amine hydrochloride (1.38 g, 7.7 mmol) in nBuOH (10 mL) were then added to the mixture via a syringe. The reaction was then heated at 120° C. for 48 h. The nBuOH was evaporated in vacuo and the residue was extracted with ethyl acetate. Drying of the organic layer with Na2SO4 followed by concentration afforded the crude product. Purification using flash column chromatography (chloroform/methanol) afforded 1-(3,4-Difluoro-phenyl)-piperazine as an off white solid.

reactant | 3,4-Difluoro-aniline | 7.7 mmol, 1 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | sodium carbonate | 30 mmol, 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Bis(2-chloroethyl) amine hydrochloride | 7.7 mmol, 1.38 g | Cl.ClCCNCCCl
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
solvent | nBuOH | 10 mL | C(CCC)O | C4H10O
product | 1-(3,4-Difluoro-phenyl)-piperazine | FC=1C=C(C=CC1F)N1CCNCC1 | C10H12F2N2
